### PR TITLE
[Merged by Bors] - feat(InfiniteSum): add `Multipliable.congr_cofinite`

### PR DESCRIPTION
**Pull request by xroblot**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/InfiniteSum/Group.lean [hunk 1]
```diff
@@ -126,6 +126,18 @@ theorem hasProd_ite_div_hasProd [DecidableEq β] (hf : HasProd f a) (b : β) :
     rw [Function.update_apply]
   · rw [div_mul_eq_mul_div, one_mul]
 
+/-- A more general version of `Multipliable.congr`. -/
+@[to_additive "A more general version of `Summable.congr`"]
+theorem Multipliable.congr' (hf : Multipliable f) (hfg : ∀ᶠ b in cofinite, f b = g b) :
```
Comment (urkud) [inline Mathlib/Topology/Algebra/InfiniteSum/Group.lean:131]:
```suggestion
theorem Multipliable.congr_ae (hf : Multipliable f) (hfg : f =ᶠ[cofinite] g) :
```
Same below. Also, please add `congr_atTop` versions that assume that the index type is `Nat` and use `atTop` instead of `cofinite`.

File: Mathlib/Topology/Algebra/InfiniteSum/Group.lean [hunk 2]
```diff
@@ -126,6 +126,26 @@ theorem hasProd_ite_div_hasProd [DecidableEq β] (hf : HasProd f a) (b : β) :
     rw [Function.update_apply]
   · rw [div_mul_eq_mul_div, one_mul]
 
+/-- A more general version of `Multipliable.congr`. -/
+@[to_additive "A more general version of `Summable.congr`"]
+theorem Multipliable.congr_cofinite (hf : Multipliable f) (hfg :f =ᶠ[cofinite] g) :
```
Comment (b-mehta) [inline Mathlib/Topology/Algebra/InfiniteSum/Group.lean:131]:
```suggestion
theorem Multipliable.congr_cofinite (hf : Multipliable f) (hfg : f =ᶠ[cofinite] g) :
```

File: Mathlib/Topology/Algebra/InfiniteSum/Group.lean [hunk 3]
```diff
@@ -126,6 +126,26 @@ theorem hasProd_ite_div_hasProd [DecidableEq β] (hf : HasProd f a) (b : β) :
     rw [Function.update_apply]
   · rw [div_mul_eq_mul_div, one_mul]
 
+/-- A more general version of `Multipliable.congr`. -/
```
Comment (b-mehta) [inline Mathlib/Topology/Algebra/InfiniteSum/Group.lean:129]:
```suggestion
/-- A more general version of `Multipliable.congr`, allowing the functions to disagree on a finite set. -/
```
and similar below and additively

File: Mathlib/Topology/Algebra/InfiniteSum/Group.lean (hunk 2 above)
Comment (b-mehta) [inline Mathlib/Topology/Algebra/InfiniteSum/Group.lean:131]: Can we put these ones closer to `Multipliable.congr`?

File: Mathlib/Topology/Algebra/InfiniteSum/Group.lean [hunk 4]
```diff
@@ -126,6 +126,26 @@ theorem hasProd_ite_div_hasProd [DecidableEq β] (hf : HasProd f a) (b : β) :
...
+@[to_additive "A more general version of `Summable.congr`"]
```
Comment (b-mehta) [inline Mathlib/Topology/Algebra/InfiniteSum/Group.lean:130]: Let's add a comment to `Multipliable.congr` referencing these.

File: Mathlib/Topology/Algebra/InfiniteSum/Group.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/Topology/Algebra/InfiniteSum/Group.lean]: No since the proof need results proved just above in this file.

File: Mathlib/Topology/Algebra/InfiniteSum/Group.lean (hunk 4 above)
Comment (xroblot) [reply Mathlib/Topology/Algebra/InfiniteSum/Group.lean]: Done. Thanks for the review.

**Comment by b-mehta** [comment]
Thanks!

bors merge
